US09107964B2
23 mg (0.11 mmol equivalents) of 2,2-dimethyl-5-hydroxymethyl-5-[(4-methoxymethoxymethyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane was dissolved in 1.0 mL of triethylamine, 1 mg (0.01 mmol equivalents) of N,N-dimethylaminopyridine and 23 mg (0.12 mmol equivalents) of p-toluenesulfonyl chloride were added thereto, and the mixture was stirred at room temperature (25° C.) for 16 hours. After completion of the reaction, a saturated aqueous solution of ammonium chloride was added, and the mixture was extracted three times with ethyl acetate. The combined ethyl acetate layers were dried with anhydrous magnesium sulfate, and then concentrated under vacuum. The obtained crude product was purified by flash silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=1/3) to give 16 mg (0.03 mmol equivalents) of 2,2-dimethyl-5-[(4-methoxymethoxymethyl-2-nitro-1H-imidazol-1-yl)methyl]-5-(p-toluenesulfonyloxymethyl)-1,3-dioxane.

reactant | 2,2-dimethyl-5-hydroxymethyl-5-[(4-methoxymethoxymethyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane | 0.11 mmol, 23 mg | CC1(OCC(CO1)(CN1C(=NC(=C1)COCOC)[N+](=O)[O-])CO)C | C14H23N3O7
reactant | p-toluenesulfonyl chloride | 0.12 mmol, 23 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
product | 2,2-dimethyl-5-[(4-methoxymethoxymethyl-2-nitro-1H-imidazol-1-yl)methyl]-5-(p-toluenesulfonyloxymethyl)-1,3-dioxane | 0.03 mmol, 16 mg | CC1(OCC(CO1)(COS(=O)(=O)C1=CC=C(C=C1)C)CN1C(=NC(=C1)COCOC)[N+](=O)[O-])C | C21H29N3O9S
